US06756372B2
Morpholine-4-carboxylic acid {1-[4-cyano-1-(4-methyl-piperazine-1-carbonyl)-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amide
The title compound is prepared from morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amide hydrochloride and 4-methyl-piperzine carbonyl chloride in the presence of a tertiary amine base such as N-methylmorpholine in a solvent such as methylene chloride.

reactant | morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amide hydrochloride | Cl.C(#N)C1(CCNCC1)NC(=O)C(CC1CCCCC1)NC(=O)N1CCOCC1
reactant | 4-methyl-piperzine carbonyl chloride | CN1CCN(CC1)C(=O)Cl | C6H11ClN2O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Morpholine-4-carboxylic acid {1-[4-cyano-1-(4-methyl-piperazine-1-carbonyl)-piperidin-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amide | C(#N)C1(CCN(CC1)C(=O)N1CCN(CC1)C)NC(=O)C(CC1CCCCC1)NC(=O)N1CCOCC1 | C26H43N7O4
